US07186746B2
Step 1. Methyl 2-(allyloxy)-4-methoxybenzoate (2):
To a solution of methyl 4-methoxysalicylate (2.0 g, 11 mmol) in DMP (20 mL) at room temperature was added Cs2CO3 (1.3 eq, 4.7 g) and allyl bromide (1.3 eq, 1.23 mL). After 2 hr, reaction mixture was diluted with EtOAc and washed with water (3×), brine (1×). The organic layer was dried over Na2SO4 and concentrated to provide the product as a pale yellow oil. Product was used without further purification.

reactant | methyl 4-methoxysalicylate | 11 mmol, 2.0 g | COC=1C=C(C(C(=O)OC)=CC1)O | C9H10O4
reactant | Cs2CO3 | 4.7 g, 1.3 eq | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | allyl bromide | 1.23 mL, 1.3 eq | C(C=C)Br | C3H5Br
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | Methyl 2-(allyloxy)-4-methoxybenzoate | C(C=C)OC1=C(C(=O)OC)C=CC(=C1)OC | C12H14O4
